US09379413B2
In an autoclave of 100 mL, pyrrolidine (40.0 g, 563 mmol) was made reacted with chloroethyl methyl ether (26.0 g, 275 mmol) at 125 deg C. for 48 hours. Solid salt that was formed was removed by filtration, and residue (filtrate) was subjected to reduced-pressure distillation by using a Vigreux column of 25 cm. Then 1H-NMR measurement of obtained amine is performed, and it was confirmed that chemical shifts, δ (ppm), are 3.46-3.43 (t, 2H), 3.30(s, 3H), 2.62-2.59(t, 2H), 2.49-2.46(m, 4H), and 1.73-1.70 (m, 4H), and that N-2-methoxyethylpyrrolidine was synthesized.

reactant | pyrrolidine | 563 mmol, 40.0 g | N1CCCC1 | C4H9N
reactant | chloroethyl methyl ether | 275 mmol, 26.0 g | COCCCl | C3H7ClO
product | N-2-methoxyethylpyrrolidine | COCCN1CCCC1 | C7H15NO
